US04237055
Following the procedure for the preparation of 11-benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene, but employing 11-t-butyldiphenylsiloxy-6,10-dimethyl-2-trimethylsiloxy-undec-1,5-diene (44.5 g) in place of 11-benzyloxy-6,10-dimethyl-2-trimethylsiloxy-undec-1,5-diene, 11-t-butyldiphenylsiloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene (45.8 g) is obtained as a yellow oil. Chromatography of a portion of the oil on silica using ethyl acetate-hexane gradients gives the pure product:

reactant | 11-benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene | C(C1=CC=CC=C1)OCC(CCCC(=CCCC(CBr)=O)C)C | C20H29BrO2
reactant | 11-t-butyldiphenylsiloxy-6,10-dimethyl-2-trimethylsiloxy-undec-1,5-diene | 44.5 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(=CCCC(=C)O[Si](C)(C)C)C)C | C32H50O2Si2
product | 11-t-butyldiphenylsiloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene | 45.8 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(=CCCC(CBr)=O)C)C | C29H41BrO2Si
